US09210927B2
Preparation of (E)-4-(3-(3,5-Dichlorophenyl)-4,4,4-trifluorobut-1-enyl)-2-methylbenzoic acid (AI32)
To a stirred solution of (E)-ethyl 4-(3-(3,5-dichlorophenyl)-4,4,4-trifluorobut-1-enyl)-2-methylbenzoate (1.7 g, 4.0 mmol) in 1,4-dioxane (10 mL) was added 11 N HCl (30 mL), and the reaction mixture was heated at 100° C. for 48 h. The reaction mixture was cooled to 25° C. and concentrated under reduced pressure. The residue was diluted with H2O and extracted with chloroform (CHCl3). The combined organic layer was dried over Na2SO4 and concentrated under reduced pressure, and the crude compound was washed with n-hexane to afford the title compound as a white solid (0.7 g, 50%): mp 142-143° C.; 1H NMR (400 MHz, DMSO-d6) δ 12.62 (br s, 1H), 7.81 (d, J=8.0 Hz, 1H), 7.66 (s, 3H), 7.52-7.44 (m, 2H), 6.89 (dd, J=16.0, 8.0 Hz, 1H), 6.78-6.74 (d, J=16.0 Hz, 1H), 4.84 (m, 1H), 2.50 (s, 3H); ESIMS m/z 387.05 ([M−H]−); IR (thin film) 3448, 1701, 1109, 777 cm−1.

reactant | (E)-ethyl 4-(3-(3,5-dichlorophenyl)-4,4,4-trifluorobut-1-enyl)-2-methylbenzoate | 4.0 mmol, 1.7 g | ClC=1C=C(C=C(C1)Cl)C(/C=C/C1=CC(=C(C(=O)OCC)C=C1)C)C(F)(F)F | C20H17Cl2F3O2
reactant | HCl | 11 N, 30 mL | Cl | ClH
solvent | 1,4-dioxane | 10 mL | O1CCOCC1 | C4H8O2
product | (E)-4-(3-(3,5-Dichlorophenyl)-4,4,4-trifluorobut-1-enyl)-2-methylbenzoic acid | 0.7 g, 50% | ClC=1C=C(C=C(C1)Cl)C(/C=C/C1=CC(=C(C(=O)O)C=C1)C)C(F)(F)F | C18H13Cl2F3O2
